Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Hydrochlorothiazide / Latex
 
Attending: ___.
 
Chief Complaint:
Fevers and drainage of posterior lumbar incision
 
Major Surgical or Invasive Procedure:
Washout of lumbar wound

 
History of Present Illness:
Dr. ___ is a ___ year old male who was recently discharged on  
___ after undergoing Anterior/posterior lumbar fusion with  
instrumentation from L3-S1 by Dr. ___ as part of a staged  
procedure on ___ and ___. THe patient reportedly tolerated 
 
the procedures well, though did suffer some delirium  
post-operatively from the second procedure, eventually 
attributed  
to narcotics, and was diagnosed with a UTI and discharged on  
antibiotics (Cipro, changed to nitrofurantoin). He has been  
doing well at rehab, ambulating with a walker, but was noted to  

be febrile today (___) and also noted to have new drainage  
from the superior aspect of his posterior spine wound. He  
complains of worse pain in posterior spine as well. Complains of 
 
chills. Denies CP/SOB/N/V.  

 
Past Medical History:
Hypertension,  
Asc. Aorta Dilation  
1+ AI  
GERD (___)  
. ___ Esophagus  
. Achalasia (s/p dilation)  
Chronic LBP  
. Surgical Repair (___) (___)  
. h/o L4-5 rupture ___  
. Rx = ___ pain clinic injection  
insomnia,  
h/o esophageal spasm (Rx = CCB)  
right leg dermatitis,  
ED,  
eczema (___)  
depression ( Dr. ___  
. steroid induced hypomania  
B12 deficiency,  
h/o achalasia status post dilation in ___,  
ventral hernia repair  

 
Social History:
___
Family History:
N/C
 
Physical Exam:
VS: Tm99.9 108/60 86 18 97 3LNC  
General: pleasant, NAD  
EENT: PERRL, EOMI, sclerae anicteric, neck supple, moist mucous 
membranes, no ulcers / lesions / thrush  
CV: RRR, normal S1, S2, no murmurs / rubs / gallops  
Pul: clear to auscultation bilaterally w/o wheezes / rhonchi / 
rales  
BACK: wound vac placed midline lumbar spine, tender to palpation 
around wound, + swelling surrounding wound, minimal surrounding 
erythema  
GI: normoactive bowel sounds, soft, non-tender, protuberant, 
incision: c/d/i and healing well.  
MSK: no joint swelling or erythema  
Extremities: warm and well perfused, no edema, 2+ DP pulses 
palpable bilaterally  
LYMPH: no cervical, axillary, or inguinal lymphadenopathy  
NEURO: awake, alert and oriented x3, CN ___ intact, ___ 
strength bil, reflexes 1+ bilaterally, normal sensitivity  
PSYCH: non-anxious, normal affect  

 
Pertinent Results:
___ 05:50AM BLOOD WBC-5.6 RBC-3.04* Hgb-9.6* Hct-28.7* 
MCV-95 MCH-31.5 MCHC-33.3 RDW-14.3 Plt ___
___ 06:33AM BLOOD WBC-10.6 RBC-2.95* Hgb-9.0* Hct-27.8* 
MCV-94 MCH-30.6 MCHC-32.5 RDW-14.1 Plt ___
___ 10:25PM BLOOD WBC-10.4# RBC-3.30* Hgb-10.3* Hct-30.3* 
MCV-92 MCH-31.2 MCHC-34.0 RDW-14.1 Plt ___
___ 06:33AM BLOOD Glucose-108* UreaN-15 Creat-0.8 Na-132* 
K-4.6 Cl-98 HCO3-30 AnGap-9
___ 10:25PM BLOOD Glucose-106* UreaN-19 Creat-0.8 Na-131* 
K-4.1 Cl-95* HCO3-29 AnGap-11
___ 06:33AM BLOOD Calcium-8.1* Phos-4.0 Mg-1.8
___ 08:27PM BLOOD Calcium-7.9* Phos-3.4 Mg-1.___r. ___ was taken emergently to the OR for a washout of his 
posterior lumbar incision.  An ID consult was sought and 
recommendations followed.  He was initially started on 
vancomycin but subsequently switched to nafcillin once culteure 
data returned.  Ultimately he was discharged with cefazolin and 
will follow up with ID the week of ___.  Lab values were 
followed.  He was discharged to rehab in good condition.
 
Medications on Admission:
Acetaminophen 1000 mg PO/NG Q6H  
Amlodipine 10 mg PO/NG DAILY  
Lisinopril 20 mg PO/NG DAILY  
Metoprolol Succinate XL 25 mg PO DAILY  
Tamsulosin 0.4 mg PO HS  
Triazolam 0.25 mg PO QPM insomnia  
Diazepam 5 mg PO/NG Q6H:PRN spasm  
Aspirin EC 81 mg PO DAILY  
OxycoDONE (Immediate Release) ___ mg PO/NG Q4H:PRN pain  
Docusate Sodium 100 mg PO BID  
Senna 1 TAB PO/NG BID  
Multivitamins 1 TAB PO/NG DAILY  
Morphine Sulfate ___ mg IV Q2H:PRN pain  
Ondansetron 4 mg IV Q8H:PRN nausea  
Pantoprazole 40 mg PO Q24H  
Aluminum-Magnesium Hydrox.-Simethicone ___ ml PO Q6H:PRN 
Dyspepsia  

 
Discharge Medications:
1. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
5. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
6. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
7. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.  
8. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
9. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
11. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
12. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO Q6H (every 6 hours) as needed for Dyspepsia.  
13. nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day).  
14. triazolam 0.25 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)) as needed for insomnia.  
15. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  
16. diazepam 5 mg Tablet Sig: ___ Tablet PO Q6H (every 6 
hours) as needed for spasm.  
17. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
by Heparin as above daily and PRN per lumen. 
18. CefazoLIN 2 g IV Q8H Duration: 21 Days 
Please continue thru follow up appointment with ID the week of 
___. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Posterior lumbar wound infection
Urinary tract infection
Thrush
 
Discharge Condition:
Good

 
Discharge Instructions:
You have undergone the following operation: POSTERIOR Lumbar 
washout 

 
Immediately after the operation:
 

 
-Activity: You should not lift anything greater than 10 lbs for 
2 weeks. You will be more comfortable if you do not sit or stand 
more than ~45 minutes without getting up and walking around.
 

 
-Rehabilitation/ Physical Therapy: 
 
o2-3 times a day you should go for a walk for ___ minutes as 
part of your recovery. You can walk as much as you can tolerate. 

 
oLimit any kind of lifting.
 

 
-Diet: Eat a normal healthy diet. You may have some constipation 
after surgery. You have been given medication to help with this 
issue.
 

 
-Brace: You have been given a brace. This brace is to be worn 
for comfort when you are walking. You may take it off when 
sitting in a chair or while lying in bed.
 

 
-Wound Care: Remove the dressing in 2 days. If the incision is 
draining cover it with a new sterile dressing. If it is dry then 
you can leave the incision open to the air. Once the incision is 
completely dry (usually ___ days after the operation) you may 
take a shower. Do not soak the incision in a bath or pool. If 
the incision starts draining at anytime after surgery, do not 
get the incision wet. Cover it with a sterile dressing. Call the 
office. 
 

 
-You should resume taking your normal home medications. No 
NSAIDs.
 

 
-You have also been given Additional Medications to control your 
pain. Please allow 72 hours for refill of narcotic 
prescriptions, so please plan ahead. You can either have them 
mailed to your home or pick them up at the clinic located on 
___ 2. We are not allowed to call in or fax narcotic 
prescriptions (oxycontin, oxycodone, percocet) to your pharmacy. 
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
 

 
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
 

Physical Therapy:
Activity:   Activity:  Activity as tolerated
Encourage turn, cough and deep breathe q2h when awake

Treatments Frequency:
Please continue to look for signs of infection
 
Followup Instructions:
___